US06288120B1
Step C: (3-{[Methanesulfonyl-(4-methyl-benzyl)-amino]-methyl}-phenyl)-acetic acid.
To a solution of (3-{[methanesulfonyl-(4-methyl-benzyl)amino]-methyl}-phenyl)-acetic acid ethyl ester (101.4 mg, 0.27 mmol) in MeOH (3 mL) was added aqueous NaOH (2N, 0.4 mL). The reaction was stirred at room temperature for 1 h and was diluted with a 1:1 mixture of 1 N HCl and water. The product was extracted into CH2Cl2 (3×) and the organic solution was dried over MgSO4, filtered, and concentrated to provide the title compound (87 mg). 1H NMR (400 MHz, CDCl3) δ 7.13-7.34 (m, 8H), 4.28 (d, 4H), 3.65 (s, 2H), 2.75 (s, 3H), 2.33 (s, 2H); MS 346 (M−1).

reactant | (3-{[methanesulfonyl-(4-methyl-benzyl)amino]-methyl}-phenyl)-acetic acid ethyl ester | 0.27 mmol, 101.4 mg | C(C)OC(CC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C)S(=O)(=O)C)=O | C20H25NO4S
reactant | NaOH | 2N, 0.4 mL | [OH-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
product | (3-{[Methanesulfonyl-(4-methyl-benzyl)-amino]-methyl}-phenyl)-acetic acid | 87 mg | CS(=O)(=O)N(CC1=CC=C(C=C1)C)CC=1C=C(C=CC1)CC(=O)O | C18H21NO4S
